US08314100B2
1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-nitrophenyl)piperazine (Compound 40)
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(4-nitrophenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound (yield, 82%). 1H NMR (300 MHz, DMSO-d6): δ 3.62-3.66 (m, 8H), 4.06 (s, 3H), 7.07 (d, J=9.0 Hz, 2H), 7.58 (d, J=8.4 Hz, 1H), 7.76-7.80 (m, 2H), 8.11 (d, J=9.0 Hz, 2H), 9.46 (s, 1H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-(4-nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-nitrophenyl)piperazine | 82% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H19ClN6O4
